Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Tremor
 
Major Surgical or Invasive Procedure:
___: Bilateral DBS placement Stage I 

 
History of Present Illness:
___ yo male with Parkinsons Disease presents for elective 
bilateral stage I DBS placement.  His symptoms date back to 
___.
 
Past Medical History:
Parkinsons
Prostate CA
 
Social History:
___
Family History:
N/A
 
Physical Exam:
AOx 3, fluent speech
PERRLA
CNII-XII intact

Bilateral UE tremor
Motor: ___ strength throughout
Sensation intact to Light touch

Incision: Bilateral Scalp incisions c/d/I, no erythema, edema, 
staples in place
 
Pertinent Results:
___ Head CT- no hemorrhage, expected postop changes

___ Brain MRI- good Lead placement, no evidence of 
hemorrhage
 
Brief Hospital Course:
___ yo male with parkinsons disease presents for elective, 
bilateral stage I DBS placement.  He tolerated the procedure 
well and was transferred to PACU and then the floor.  Mr. ___ 
had an episode of confusion and he was found OOB on the floor. 
No evidence of head strike.  CT head was performed and was 
negative for hemorrhage.

He was seen and evaluated by Physical therapy and Occupational 
therapy who felt that he would benefit from rehab.  Routine MRI 
postop was performed on ___ and showed good placement of 
Bilateral DBS leads without evidence of hemorrhage.  He remained 
neurologically stable and on ___, the day of discharge he was 
tolerating a regular diet, ambulating without difficulty, 
afebrile with stable vital signs.
 
Medications on Admission:
carbidopa-levodopa 
carbidopa 25 mg-levodopa 100 mg tablet
1.5 tablet(s) by mouth three times daily
 
Discharge Medications:
1.  Acetaminophen w/Codeine ___ TAB PO Q6H:PRN Pain - Moderate 
Do not exceed 4g acetaminophen in 24 hours   
2.  Docusate Sodium 100 mg PO BID  
3.  Heparin 5000 UNIT SC BID 
This MUST be discontinued 24 hours prior to scheduled surgery on 
___  
4.  Senna 17.2 mg PO QHS:PRN constipation  
5.  Carbidopa-Levodopa (___) 1.5 TAB PO TID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Parkinsons

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions
Deep Brain Stimulator 

Surgery
•*** You underwent Stage I and will need to contact the office 
to confirm the date for your Stage II surgery. Your staples/ 
sutures will be removed at that time. 

Activity
•You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours.
•Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days.
•You may take leisurely walks and slowly increase your activity 
at your own pace. ___ try to do too much too soon.
•Do not go swimming or submerge yourself in water for fourteen 
(14) days after your procedure.
•The dressing covering your head incision(s) may be removed 
after 48 hours. You may use a damp washcloth to remove any dried 
blood or iodine from your skin but do not get your head wet in 
the shower until your staples or sutures are removed.

Medications
•Resume your normal ___ medications. The neurologist 
programming your device may adjust your medications once 
programming begins. 
•Take any new medications (i.e. pain medications) as directed.
•If you were on a medication such as Coumadin (Warfarin), or 
Plavix (Clopidogrel), or Aspirin, do not take this until cleared 
by your Neurosurgeon. 
•Do not take any anti-inflammatory medicines such as Motrin, 
Aspirin, Advil, or Ibuprofen etc. until follow up.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
What You ___ Experience:
•Mild tenderness along the incisions. 
•Soreness in your arms from the intravenous lines.
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•Severe Constipation
•Blood in your stool or urine
•Nausea and/or vomiting
•Extreme sleepiness
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

 
Followup Instructions:
___